US05334765
A solution of methyl 4-(5-benzyloxycarbonyl-1-methylindol-3-ylmethyl)-3-methoxybenzoate (41.0 g) and formic acid (40 mL) in N,N-dimethylformamide (600 mL) was treated with 10% (w/w) palladium on carbon (10 g) and shaken under hydrogen (3.45 bar) for 24 hours. The catalyst was removed by filtration through diatomaceous earth and the filtrate evaporated to give an amber solid. The solid was triturated with warm diethyl ether and filtered to afford methyl 4-(5-carboxy-1-methylindol-3-ylmethyl)-3-methoxybenzoate as a light gray solid (28.9 g, 88%); mp 249°-251° C.; partial NMR (250 MHz, DMSO-d6): 3.78 (s, 3H, NCH3), 3.64 (s, 3H, CO2CH3), 3.93 (s, 3H, OCH3), 4.09 (s, 2H, CH2), 7.12 (s, 1H, indole-H(2)), 8.16 (s, 1H, indole-H(4)), 12.44 (br, 1H, CO2H).

reactant | methyl 4-(5-benzyloxycarbonyl-1-methylindol-3-ylmethyl)-3-methoxybenzoate | 41.0 g | C(C1=CC=CC=C1)OC(=O)C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC | C27H25NO5
reactant | formic acid | 40 mL | C(=O)O | CH2O2
solvent | N,N-dimethylformamide | 600 mL | CN(C=O)C | C3H7NO
catalyst | palladium on carbon | 10 g | [Pd] | Pd
product | methyl 4-(5-carboxy-1-methylindol-3-ylmethyl)-3-methoxybenzoate | 28.9 g, 88% | C(=O)(O)C=1C=C2C(=CN(C2=CC1)C)CC1=C(C=C(C(=O)OC)C=C1)OC | C20H19NO5
